US05861109
4'-bromo-3-fluoro-4-octoxybiphenyl
This was prepared using a similar method to that described for compound 8. Quantities: 3-fluoro-4-octoxyphenyl boronic acid (7.0 g, 0.026 mol), 4-bromoiodobenzene (5.88 g, 0.021 mol), tetrakis(triphenylphosphine)palladium (0) (0.8 g, 0.7 mol).

reactant | 3-fluoro-4-octoxyphenyl boronic acid | 0.026 mol, 7.0 g | FC=1C=C(C=CC1OCCCCCCCC)B(O)O | C14H22BFO3
reactant | 4-bromoiodobenzene | 0.021 mol, 5.88 g | BrC1=CC=C(C=C1)I | C6H4BrI
catalyst | tetrakis(triphenylphosphine)palladium | 0.7 mol, 0.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4'-bromo-3-fluoro-4-octoxybiphenyl | BrC1=CC=C(C=C1)C1=CC(=C(C=C1)OCCCCCCCC)F | C20H24BrFO
